US09260455B2
Step 2. Synthesis of N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylpropyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C29)
A solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylprop-1-en-1-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C28) (42 mg, 95 μmol) in methanol (28 mL) was treated with palladium on activated carbon [10% by weight (dry), 50% water, 224 mg, 105 μmol] and hydrogenated (35 pounds per square inch of hydrogen) for 20 hours. The reaction mixture was filtered through Celite®, and the filter pad was rinsed with methanol (30 mL). The combined filtrates were concentrated in vacuo and purified via silica gel chromatography (Gradient: 0% to 30% ethyl acetate in heptane) to provide the product as an opaque semi-solid. Yield: 10.9 mg, 24.5 μmol, 26%. LCMS m/z 445.2 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 8.24 (br d, J=8 Hz, 2H), 7.48-7.54 (m, 1H), 7.37-7.48 (m, 3H), 6.84-6.96 (m, 2H), 4.11 (dd, J=12.2, 1.5 Hz, 1H), 3.77 (d, J=12.1 Hz, 1H), 3.64-3.72 (m, 1H), 3.09-3.17 (m, 1H), 3.01 (dd, J=12.7, 4.1 Hz, 1H), 2.63 (dd, J=12.7, 2.7 Hz, 1H), 1.86-1.97 (m, 1H), 1.76-1.87 (m, 1H), 1.55-1.65 (m, 2H), 1.23-1.31 (m, 1H), 0.93 (d, J=6.5 Hz, 3H), 0.92 (d, J=6.6 Hz, 3H).

reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylprop-1-en-1-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 95 μmol, 42 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=C(C)C)NC(C2=CC=CC=C2)=O | C24H24F2N2O2S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 28 mL | CO | CH4O
catalyst | palladium on activated carbon | 105 μmol, 224 mg | [Pd] | Pd
product | N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylpropyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CC(C)C)NC(C2=CC=CC=C2)=O | C24H26F2N2O2S
